US06586617B1
To a solution of 4-ethylbenzenesulfonyl chloride (90%, 4.25 g (20.8 mmol)) in pyridine (10 ml), 4-chloroaniline (2.55 g (20.0 mmol)) was added with stirring at room temperature. After 18 hours' stirring at room temperature, water (100.0 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with dilute hydrochloric acid, water and a saturated aqueous solution of sodium chloride successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to give 5.26 g (89%) of 4′-chloro-4-ethylbenzenesulfonanilide as white crystals.

reactant | 4-ethylbenzenesulfonyl chloride | 20.8 mmol, 4.25 g | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
reactant | 4-chloroaniline | 20.0 mmol, 2.55 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | water | 100.0 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4′-chloro-4-ethylbenzenesulfonanilide | 5.26 g, 89% | ClC1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)CC)C=C1 | C14H14ClNO2S
